US08309558B2
2-(4-fluorophenyl)-5-(4-methoxy-2-methyl-5-(1-(1-methyl-1H-imidazol-4-yl)cyclopropylcarbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide.
5-(2-(4-Fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid (0.2 g, 1 eq), 1-(1-methyl-1H-imidazol-4-yl)cyclopropanamine (0.07 g, 1.1 eq), EDCI.HCl (0.13 g, 1.5 eq), HOBT (0.094 g, 1.5 eq) and TEA (0.19 ml, 3 eq) were dissolved in dichloromethane and the above solution was stirred at room temperature for 18 h. Later water was added and organic layer was separated. The organic layer was washed with water and the crude product was purified by Prep. HPLC. Yield: 24.69 mg (10%) 1HNMR (400 MHz, CDCl3): δ 1.39 (s, 4H), 2.30 (s, 3H), 2.99-3.01 (d, J=4.6 Hz, 3H), 3.81 (s, 3H), 4.04 (s, 3H), 5.90 (s, 1H), 6.87 (s, 1H), 7.16-7.25 (m, 3H), 7.24 (s, 1H), 7.51 (d, J=8.4 Hz, 1H), 7.65 (s, 1H), 7.98-7.99 (m, 3H), 8.29 (s, 1H), 8.95 (s, 1H). LCMS: (ES+) m/z=553.2 (M+H). Method: Column-Ascentis Express C18 (5×2.1 mm-2.7 μm) Mphase A: 2% ACN-98% H2O-10 mM NH4COOH Mphase B: 98% ACN-2% H2O-10 mM NH4COOH Flow: 1 mL/Min

reactant | 5-(2-(4-Fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid | 0.2 g, 1 eq | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C(=CC(=C(C(=O)O)C2)OC)C | C25H20FNO5
reactant | 1-(1-methyl-1H-imidazol-4-yl)cyclopropanamine | 0.07 g, 1.1 eq | CN1C=NC(=C1)C1(CC1)N | C7H11N3
reactant | EDCI.HCl | 0.13 g, 1.5 eq | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 0.094 g, 1.5 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-(4-fluorophenyl)-5-(4-methoxy-2-methyl-5-(1-(1-methyl-1H-imidazol-4-yl)cyclopropylcarbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=C(C=C(C(=C2)C(NC2(CC2)C=2N=CN(C2)C)=O)OC)C | C32H29FN4O4
